US09422275B2
To a 0° C. solution of 4-(4-amino-2,6-dimethylphenyl)thiazol-2-amine (1.0 g, 4.57 mmol) in MeOH (6 mL) was added Et3N (0.7 mL, 5.0 mmol), followed by the addition of (Boc)2O (1.1 g, 5.0 mmol). The solution was then stirred at room temperature for 4 h. The mixture was then concentrated in vacuo, and provided tert-butyl (4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)carbamate as a beige powder (1.54 g, quantitative yield). The crude product was used without further purification.

reactant | 4-(4-amino-2,6-dimethylphenyl)thiazol-2-amine | 4.57 mmol, 1.0 g | NC1=CC(=C(C(=C1)C)C=1N=C(SC1)N)C | C11H13N3S
reactant | Et3N | 5.0 mmol, 0.7 mL | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 5.0 mmol, 1.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 6 mL | CO | CH4O
product | tert-butyl (4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)carbamate | 1.54 g, quantitative yield | NC=1SC=C(N1)C1=C(C=C(C=C1C)NC(OC(C)(C)C)=O)C | C16H21N3O2S
